US08629166B2
b) C-(1-Cyclopropylmethyl-1H-pyrazol-3-yl)-methylamine
To a colorless solution of 2-((1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)isoindoline-1,3-dione (400 mg, 1.42 mmol) in THF (10 mL) and ethanol (5 mL) was added hydrazine hydrate (0.62 g, 0.60 mL, 12.3 mmol). The white suspension was stirred for 20 h at room temperature, diluted with t-butylmethyl ether (50 mL) and phtalyl hydrazide was removed by filtration. The filtrate was concentrated in vacuo and the crude material was purified by flash chromatography (amino phase, 12 g, 0% to 100% ethyl acetate in heptane) to yield 197 mg (92%) of the title compound as a light yellow oil; MS (ESI): 152.1 (M+H)+.

reactant | 2-((1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)isoindoline-1,3-dione | 1.42 mmol, 400 mg | C1(CC1)CN1N=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C16H15N3O2
reactant | hydrazine hydrate | 12.3 mmol, 0.60 mL, 0.62 g | O.NN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | t-butylmethyl ether | 50 mL | C(C)(C)(C)OC | C5H12O
product | C-(1-Cyclopropylmethyl-1H-pyrazol-3-yl)-methylamine | 197 mg, 92% | C1(CC1)CN1N=C(C=C1)CN | C8H13N3
